* Z:\mnt\design.r\spice\examples\1463.asc
V1 +V 0 15
V2 -V 0 -15
V3 IN 0 AC 1
C1 N002 N004 .033µ
R1 N002 N001 237K
R2 N004 N001 249K
R3 N001 IN 237K
C2 OUT N005 .01µ
R4 OUT N003 154K
R5 N005 N003 249K
R6 N003 N002 154K
XU1 0 N004 +V -V N002 LT1462
XU2 0 N005 +V -V OUT LT1462
C3 N003 0 .33µ
C4 N001 0 .1µ
.ac oct 100 1m 1K
* 10Hz 4th Order Chebyshev Lowpass Filter
.lib LTC.lib
.backanno
.end
